US07452893B2
Sodium azide (0.500 g, 7.69 mmol) was added to a N,N-dimethylformamide (10 mL) solution of 3-Fluoro-4-(2-phenylethoxy)cyclohexyl methanesulfonate (0.597 g, 1.89 mmol) under nitrogen. The resulting mixture was heated at 50° C. for 24 h, then cooled and poured into saturated sodium bicarbonate. The aqueous mixture was extracted with ethyl acetate (3×) and the combined organic extracts were washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Flash column chromatography (hexane:ethyl acetate, e 90:10) gave 4-Azido-2-fluorocyclohexyl 2-phenylethyl ether as a colorless oil (0.355 g, 71% yield).

reactant | Sodium azide | 7.69 mmol, 0.500 g | [N-]=[N+]=[N-].[Na+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | 3-Fluoro-4-(2-phenylethoxy)cyclohexyl methanesulfonate | 1.89 mmol, 0.597 g | CS(=O)(=O)OC1CC(C(CC1)OCCC1=CC=CC=C1)F | C15H21FO4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-Azido-2-fluorocyclohexyl 2-phenylethyl ether | 0.355 g, 71% yield | C1(=CC=CC=C1)CCOC1C(CC(CC1)N=[N+]=[N-])F | C14H18FN3O
